US09315521B2
To a solution of (3-chloro-1-benzothiophen-2-yl)methanol (480 mg, 2.4 mmol) in anhydrous diethyl ether (8 mL) was added dropwise a solution of phosphorus tribromide (230 μL, 2.4 mmol) in anhydrous diethyl ether (2 mL) at 0° C. The mixture was stirred for 3 hours at room temperature. Water was added and extracted 3 times with ethyl acetate. The combined organic phase was washed with brine and dried over magnesium sulfate. After evaporation of the solvent, 2-(bromomethyl)-3-chloro-1-benzothiophene was obtained as a pink pale solid (537 mg, 85% yield) and used for the next step without further purification; 1H NMR (400 MHz, CDCl3): δ 4.81 (s, 2H), 7.40-7.48 (m, 2H), 7.76-7.82 (m, 2H).

reactant | (3-chloro-1-benzothiophen-2-yl)methanol | 2.4 mmol, 480 mg | ClC1=C(SC2=C1C=CC=C2)CO | C9H7ClOS
reactant | phosphorus tribromide | 2.4 mmol, 230 μL | P(Br)(Br)Br | Br3P
reactant | Water | O | H2O
solvent | diethyl ether | 8 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
product | 2-(bromomethyl)-3-chloro-1-benzothiophene | BrCC=1SC2=C(C1Cl)C=CC=C2 | C9H6BrClS
